US05159079
2-t-Butylcarbonylamino-4-hydroxy-6-hydroxymethyl-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine
To a mixture of 5.0 g of 2-t-butylcarbonylamino-4-hydroxy-6-[t-butyl(dimethyl)silyloxymethyl]-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine in 50 ml of THF and 50 ml of water were added 150 ml of glacial acetic acid. The mixture was stirred 18 hours at 22° C. and then evaporated to a viscous oil. Water was added and the resulting white precipitate collected by filtration to give 3.1 g of the title compound: mp 236°-238° C.; Anal. Calcd for C19H34N4O3Si: C, 55.70; H, 7.19; N, 19.99. Found: C, 55.96; H, 7.25; N, 19.69.

reactant | 2-t-butylcarbonylamino-4-hydroxy-6-[t-butyl(dimethyl)silyloxymethyl]-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine | 5.0 g | C(C)(C)(C)C(=O)NC=1N=C(C2=C(N1)NCC(C2)CO[Si](C)(C)C(C)(C)C)O | C19H34N4O3Si
reactant | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | 2-t-Butylcarbonylamino-4-hydroxy-6-hydroxymethyl-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine | 3.1 g | C(C)(C)(C)C(=O)NC=1N=C(C2=C(N1)NCC(C2)CO)O | C13H20N4O3
